### PR TITLE
Variant for infinitude of Fibonacci primes.

### PR DESCRIPTION
**Pull request by mo271**
Also restructure documentation a bit.

### CODE REVIEW

File: FormalConjectures/Wikipedia/FibonacciPrimes.lean [hunk 1]
```diff
@@ -16,13 +16,46 @@ limitations under the License.
...
-theorem fib_primes_infinite : {n : ℕ | n.fib.Prime}.Infinite := by
+theorem fib_primes_infinite.variant : {n : ℕ | n.fib.Prime}.Infinite := by
   sorry
+
+/--
+The two ways of phrasing the conjecture are equivalent.
+-/
+@[category test, AMS 11]
+theorem indices_infinite_iff_fib_primes_infinite : type_of% fib_primes_infinite.variant ↔
+    type_of%fib_primes_infinite := by
```
Comment (callesonne) [inline FormalConjectures/Wikipedia/FibonacciPrimes.lean]:
```suggestion
    type_of% fib_primes_infinite := by
```

File: FormalConjectures/Wikipedia/FibonacciPrimes.lean [hunk 2]
```diff
@@ -16,13 +16,46 @@ limitations under the License.
...
+@[category research open, AMS 11]
+theorem fib_primes_infinite : {n : ℕ | (∃ m : ℕ, m.fib = n) ∧ n.Prime}.Infinite := by
+  sorry
+
+/--
+There are infinitely many indices $i$, such that the $i$-th Fibonacci is prime.
 -/
 @[category research open, AMS 11]
-theorem fib_primes_infinite : {n : ℕ | n.fib.Prime}.Infinite := by
+theorem fib_primes_infinite.variant : {n : ℕ | n.fib.Prime}.Infinite := by
```
Comment (callesonne) [inline FormalConjectures/Wikipedia/FibonacciPrimes.lean:39]: So how come you want this to be the variant?

Comment (mo271) [reply FormalConjectures/Wikipedia/FibonacciPrimes.lean:39]: I don't have a preference, this was more accidental. 
What names would you suggest?

Comment (callesonne) [reply FormalConjectures/Wikipedia/FibonacciPrimes.lean:39]: No, this doesn't matter so much to me either, but I guess what is your motivation for introducing the new variant?

Comment (mo271) [reply FormalConjectures/Wikipedia/FibonacciPrimes.lean:39]: see discussion at #264

Comment (mo271) [reply FormalConjectures/Wikipedia/FibonacciPrimes.lean:39]: it would be even more obvious that the two statements are equivalent if Nat.fib would be injective, but it isn't because `Nat.fib 1 = 1 = Nat.fib 2`
